US07648987B2
1-(3-Benzyloxy-phenyl)-3-ethoxy-imidazo[1,5-a]pyrazin-8-ylamine
A solution of 1-(3-benzyloxy-phenyl)-8-chloro-3-ethoxy-imidazo[1,5-a]pyrazine (20.0 mg, 0.05 mmol) in i-PrOH (5 mL) was saturated with NH3 at −20° C. and heated in a Parr pressure vessel to 110° C. for 72 h. The reaction was concentrated in vacuo, partitioned between DCM and H2O and separated. The aqueous layer was washed with DCM (3×) and the combined organic layers were washed with brine (1×), dried over Na2SO4, filtered and concentrated in vacuo and purified by chromatography on silica gel [eluting with 2% EtOAc in DCM] to yield the desired product as an off-white solid; 1H NMR (CDCl3, 400 MHz) δ 1.45 (t, J=7.2 Hz, 3H), 4.58 (q, J=7.2 Hz, 2H), 4.91 (brs, 2H), 5.10 (s, 2H), 6.86 (d, J=4.8 Hz, 1H), 6.95-6.99 (m, 1H), 7.04 (d, J=5.2 Hz, 1H), 7.17-7.21 (m, 2H), 7.26-7.43 (m, 7H); MS (ES+): m/z=361.19 (100) [MH+], HPLC: tR=2.36 min (MicromassZQ, polar—5 min).

reactant | 1-(3-benzyloxy-phenyl)-8-chloro-3-ethoxy-imidazo[1,5-a]pyrazine | 0.05 mmol, 20.0 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)Cl)OCC | C21H18ClN3O2
reactant | NH3 | N | H3N
solvent | i-PrOH | 5 mL | CC(C)O | C3H8O
product | 1-(3-Benzyloxy-phenyl)-3-ethoxy-imidazo[1,5-a]pyrazin-8-ylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)N)OCC | C21H20N4O2
